US04770503
A mixture of 3.77 g of crude (5-hexenyl)malon-tetraacetal, 0.35 ml of water and 15 mg of p-toluene-sulphonic acid is heated to 80°-85° C. for 3 hours while stirring. After cooling the mixture is treated with 160 mg of sodium hydrogen carbonate and stirred for 1.5 hours. Subsequently, the reaction mixture is diluted with diethyl ether, extracted three times with cold 3N sodium hydroxide solution, washed with water and dried. The crude 3-methoxy-2-(5-hexenyl)acrolein which is obtained after evaporation of the solvent is further processed without additional purification.

reactant | water | 0.35 ml | O | H2O
reactant | p-toluene-sulphonic acid | 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 160 mg | C(O)([O-])=O.[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
product | 3-methoxy-2-(5-hexenyl)acrolein | COC=C(C=O)CCCCC=C | C10H16O2
